US06054469
b) 1(RS)-(3-Methyl-pyridin-4-yl)-2(RS)-phenyl-propan-1-ol
1-Bromoethylbenzene (2.2 ml, 17 mmol) in anhydrous tetrahydrofuran (30 ml) was added dropwise to a stirred solution of a cooled (-5° C.) mixture of zinc (2.7 g, 41.5 mmol) in anhydrous tetrahydrofuran (5 ml). The mixture was allowed to warm to 5° C. and stirred for 2 hours. This mixture was added to a stirred mixture of copper(1)cyanide (1.25 g, 14 mmol) and lithium chloride (1.25 g, 30 mmol) in tetrahydrofuran (15 ml) at -78° C., under nitrogen. The mixture was allowed to warm to -20° C. for 5 minutes then re-cooled to -78° C. This mixture was treated with boron trifluoride diethyl etherate (3.5 ml, 28 mmol) followed by a solution of the foregoing aldehyde (1.7 g, 14 mmol) in tetrahydrofuran (10 ml). The mixture was allowed to warm to room temperature whilst stirring overnight. The solvent was evaporated and the residue partitioned between water and dichloromethane. The organic layer was dried (sodium sulphate), the solvent evaporated and the residue purified by column chromatography on silica using dichloromethane/methanol (gradient). The title compound was obtained as a mixture of diastereomers (350 mg, 12%). MS, ES+, m/z=228 for (M+H)+.

reactant | 1-Bromoethylbenzene | 17 mmol, 2.2 ml | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | copper(1)cyanide | 14 mmol, 1.25 g | [Cu]C#N
reactant | lithium chloride | 30 mmol, 1.25 g | [Cl-].[Li+]
reactant | boron trifluoride diethyl etherate | 28 mmol, 3.5 ml | B(F)(F)F.CCOCC
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | zinc | 41.5 mmol, 2.7 g | [Zn] | Zn
product | 1(RS)-(3-Methyl-pyridin-4-yl)-2(RS)-phenyl-propan-1-ol | CC=1C=NC=CC1C(C(C)C1=CC=CC=C1)O | C15H17NO
